
.SUBCKT pump_20px_0 10 11 12 13 14 15 16 17 80 81 82 83 84 85 86 87 PARAMS:

Yvalve_2 v1 10 21 12 13 80  821 82 83 cvol=0.3e-12 ct=100k
Yvalve_2 v2 21 22 14 15 821 822 84 85 cvol=0.3e-12 ct=100k
Yvalve_2 v3 22 11 16 17 822 81  86 87 cvol=0.3e-12 ct=100k

.ENDS
